US04031221
A solution of 20.0 g of 1-benzhydryl-3-(4-fluorophenoxy)azetidine and 10.3 g of phenylchloroformate in 200 ml. of toluene is refluxed for 16 hours. The reaction mixture is cooled, and the toluene is removed under reduced pressure to give a yellow oil. The oil is triturated with hexane to give a white solid of 1-phenoxycarbonyl-3-(p-fluorophenoxy)azetidine.

reactant | 1-benzhydryl-3-(4-fluorophenoxy)azetidine | 20.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC=C(C=C1)F | C22H20FNO
reactant | phenylchloroformate | 10.3 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-phenoxycarbonyl-3-(p-fluorophenoxy)azetidine | O(C1=CC=CC=C1)C(=O)N1CC(C1)OC1=CC=C(C=C1)F | C16H14FNO3
